* gsyn weight-response linearity vs source degeneration RDEG.
* Fix input differential, sweep weight (wp-wn), measure output differential. More RDEG -> more linear in w (lower gain).
.model NNR NMOS (LEVEL=1 VTO=0.2 KP=120u LAMBDA=0.02 GAMMA=0 PHI=0.7)
.model PNR PMOS (LEVEL=1 VTO=-0.2 KP=40u LAMBDA=0.02 GAMMA=0 PHI=0.7)
.param RDEG=12k
.param RDW=12k
Vdd vdd 0 1.0
Vbn vbn 0 0.45
* input fixed at a representative differential (inp=0.6, inn=0.4)
Vinp inp 0 0.6
Vinn inn 0 0.4
* weight differential swept: wp = 0.5+x, wn = 0.5-x  (x = WD/2)
Vwp wp 0 0.5
Vwn wn 0 0.5
* gsyn core (degenerated Gilbert)
Mtail nt vbn 0 0 NNR W=400u L=100u
M5 na wp s5 0 NNR W=200u L=100u
Rd5 s5 nt {RDW}
M6 nb wn s6 0 NNR W=200u L=100u
Rd6 s6 nt {RDW}
M1 outp inp s1 0 NNR W=200u L=100u
Rd1 s1 na {RDEG}
M2 outn inn s2 0 NNR W=200u L=100u
Rd2 s2 na {RDEG}
M3 outn inp s3 0 NNR W=200u L=100u
Rd3 s3 nb {RDEG}
M4 outp inn s4 0 NNR W=200u L=100u
Rd4 s4 nb {RDEG}
* resistive loads to vdd for DC readout
RLp vdd outp 50k
RLn vdd outn 50k
.control
foreach rd 12k 40k 100k 200k
  alterparam RDW = $rd
  reset
  dc Vwp 0.30 0.70 0.04
  let od = v(outp)-v(outn)
  print od >> /tmp/charsyn.txt
end
.endc
.end
