micro nobk
simulator lang=spice
.model NNR NMOS (LEVEL=1 VTO=0.2 KP=120u LAMBDA=0.02 GAMMA=0 PHI=0.7)
.model PNR PMOS (LEVEL=1 VTO=-0.2 KP=40u LAMBDA=0.02 GAMMA=0 PHI=0.7)
.subckt gsyn inp inn wp wn outp outn vdd vbn
Mtail nt vbn 0 0 NNR W=400u L=100u
M5 na wp s5 0 NNR W=200u L=100u
Rd5 s5 nt 12k
M6 nb wn s6 0 NNR W=200u L=100u
Rd6 s6 nt 12k
M1 outp inp s1 0 NNR W=200u L=100u
Rd1 s1 na 12k
M2 outn inn s2 0 NNR W=200u L=100u
Rd2 s2 na 12k
M3 outn inp s3 0 NNR W=200u L=100u
Rd3 s3 nb 12k
M4 outp inn s4 0 NNR W=200u L=100u
Rd4 s4 nb 12k
.ends
.subckt gsynL inp inn wp wn outp outn vdd vbn
Mtail nt vbn 0 0 NNR W=400u L=100u
M5 na wp s5 0 NNR W=200u L=100u
Rd5 s5 nt 60k
M6 nb wn s6 0 NNR W=200u L=100u
Rd6 s6 nt 60k
M1 outp inp s1 0 NNR W=200u L=100u
Rd1 s1 na 60k
M2 outn inn s2 0 NNR W=200u L=100u
Rd2 s2 na 60k
M3 outn inp s3 0 NNR W=200u L=100u
Rd3 s3 nb 60k
M4 outp inn s4 0 NNR W=200u L=100u
Rd4 s4 nb 60k
.ends
.subckt cmld p n vdd
Rcs1 p cmx 300k
Rcs2 n cmx 300k
MLp p cmx vdd vdd PNR W=1000u L=100u
MLn n cmx vdd vdd PNR W=1000u L=100u
.ends
.subckt dneuron up un ap an vdd vbn
M1 an up tn 0 NNR W=200u L=100u
M2 ap un tn 0 NNR W=200u L=100u
Mt tn vbn 0 0 NNR W=200u L=100u
Xcm ap an vdd cmld
.ends
.subckt dneuronT up un ap an tn vdd vbn
M1 an up tn 0 NNR W=200u L=100u
M2 ap un tn 0 NNR W=200u L=100u
Mt tn vbn 0 0 NNR W=200u L=100u
Xcm ap an vdd cmld
.ends
.subckt esub xp xn mp mn ep en vdd vbn
Mt nt vbn 0 0 NNR W=400u L=100u
M1x ep xn s1x 0 NNR W=200u L=100u
Rs1x s1x nt 0
M2x en xp s2x 0 NNR W=200u L=100u
Rs2x s2x nt 0
M1m ep mp s1m 0 NNR W=200u L=100u
Rs1m s1m nt 0
M2m en mn s2m 0 NNR W=200u L=100u
Rs2m s2m nt 0
RLp vdd ep 50k
RLn vdd en 50k
.ends
.subckt gprod xp xn yp yn wp wn vdd vbn
Mtail nt vbn 0 0 NNR W=400u L=100u
M5 na yp sy5 0 NNR W=200u L=100u
Rg5 sy5 nt 12k
M6 nb yn sy6 0 NNR W=200u L=100u
Rg6 sy6 nt 12k
M1 iop xp sx1 0 NNR W=200u L=100u
Rg1 sx1 na 12k
M2 ion xn sx2 0 NNR W=200u L=100u
Rg2 sx2 na 12k
M3 ion xp sx3 0 NNR W=200u L=100u
Rg3 sx3 nb 12k
M4 iop xn sx4 0 NNR W=200u L=100u
Rg4 sx4 nb 12k
Mlp iop iop vdd vdd PNR W=200u L=100u
Mln ion ion vdd vdd PNR W=200u L=100u
Mpu_wp wp iop vdd vdd PNR W=200u L=100u
MpRn nrn ion vdd vdd PNR W=200u L=100u
MnRn nrn nrn 0 0 NNR W=200u L=100u
Mpd_wp wp nrn 0 0 NNR W=200u L=100u
Mpu_wn wn ion vdd vdd PNR W=200u L=100u
MpRp nrp iop vdd vdd PNR W=200u L=100u
MnRp nrp nrp 0 0 NNR W=200u L=100u
Mpd_wn wn nrp 0 0 NNR W=200u L=100u
.ends
.subckt gprodC ap an bp bn yp yn wp wn ckd ckr pk vdd vbn
* CHOPPER-EP update: input mux (a when ckd | b when ckr) + output H-bridge (direct ckd | crossed ckr)
Mxa1 ap ckd xip 0 NNR W=200u L=100u
Mxa2 an ckd xin 0 NNR W=200u L=100u
Mxb1 bp ckr xip 0 NNR W=200u L=100u
Mxb2 bn ckr xin 0 NNR W=200u L=100u
Rpki xip pk 10meg
Rpkj xin pk 10meg
Mtail nt vbn 0 0 NNR W=400u L=100u
M5 na yp sy5 0 NNR W=200u L=100u
Rg5 sy5 nt 12k
M6 nb yn sy6 0 NNR W=200u L=100u
Rg6 sy6 nt 12k
M1 iop xip sx1 0 NNR W=200u L=100u
Rg1 sx1 na 12k
M2 ion xin sx2 0 NNR W=200u L=100u
Rg2 sx2 na 12k
M3 ion xip sx3 0 NNR W=200u L=100u
Rg3 sx3 nb 12k
M4 iop xin sx4 0 NNR W=200u L=100u
Rg4 sx4 nb 12k
Mlp iop iop vdd vdd PNR W=200u L=100u
Mln ion ion vdd vdd PNR W=200u L=100u
Mpu_op op iop vdd vdd PNR W=200u L=100u
MpRn nrn ion vdd vdd PNR W=200u L=100u
MnRn nrn nrn 0 0 NNR W=200u L=100u
Mpd_op op nrn 0 0 NNR W=200u L=100u
Mpu_on on ion vdd vdd PNR W=200u L=100u
MpRp nrp iop vdd vdd PNR W=200u L=100u
MnRp nrp nrp 0 0 NNR W=200u L=100u
Mpd_on on nrp 0 0 NNR W=200u L=100u
Mbd1 op ckd wp 0 NNR W=200u L=100u
Mbd2 on ckd wn 0 NNR W=200u L=100u
Mbr1 op ckr wn 0 NNR W=200u L=100u
Mbr2 on ckr wp 0 NNR W=200u L=100u
Rpko op pk 10meg
Rpkn on pk 10meg
.ends
Vdd vdd 0 1.0
Vbs vbsyn 0 0.45
Vbn vbneu 0 0.35
Vgm gm 0 0.6
Vbb vbbk 0 0.6
Va0p a0p 0 0.65
Va0n a0n 0 0.35
Vw1p w1p 0 0.65
Vw1n w1n 0 0.35
Vw2p w2p 0 0.65
Vw2n w2n 0 0.35
* hidden m1
Xfm a0p a0n w1p w1n m1p m1n vdd vbsyn gsyn
Xcm1 m1p m1n vdd cmld
Rm1 m1p m1n 20k
* hidden x1: forward copy {}+ backward (variant)
Xfx a0p a0n w1p w1n x1p x1n vdd vbsyn gsyn
Xcx1 x1p x1n vdd cmld
Rx1 x1p x1n 20k
Cx1p x1p 0 0.4p
Cx1n x1n 0 0.4p
* a1, eps1
Xn1 x1p x1n a1p a1n vdd vbneu dneuron
Xe1 x1p x1n m1p m1n e1p e1n vdd gm esub
* output m2
Xfo a1p a1n w2p w2n m2p m2n vdd vbsyn gsyn
Xcm2 m2p m2n vdd cmld
Rm2 m2p m2n 20k
* output clamp + eps2
Vxop xop 0 0.55
Vxon xon 0 0.45
Xe2 xop xon m2p m2n e2p e2n vdd gm esub
.tran 1n 400n
.save m1p m1n x1p x1n e1p e1n e2p e2n m2p m2n a1p a1n
.end
